US08058245B2
1-[1-(4-Methylbenzyl)-1H-indol-6-yl]-1-deoxy-2,3,4,6-tetra-O-benzyl-β-D-glucopyranose
To a solution of 1-(1H-indol-6-yl)-1-deoxy-2,3,4,6-tetra-O-benzyl-β-D-glucopyranose (0.13 g) in N,N-dimethylformamide (2 mL) was added sodium hydride (60%, 0.01 g) at 0° C., and the mixture was stirred for 10 minutes. To the mixture was added 4-methylbenzylchloride (0.032 g), and the mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into water, and the mixture was extracted with diethyl ether. The organic layer washed with water and brine and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=5/1) to give the title compound (0.12 g).

reactant | 1-(1H-indol-6-yl)-1-deoxy-2,3,4,6-tetra-O-benzyl-β-D-glucopyranose | 0.13 g | N1C=CC2=CC=C(C=C12)[C@H]1[C@H](OCC2=CC=CC=C2)[C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@H](O1)COCC1=CC=CC=C1 | C42H41NO5
reactant | sodium hydride | 0.01 g | [H-].[Na+]
reactant | 4-methylbenzylchloride | 0.032 g | CC1=CC=C(CCl)C=C1 | C8H9Cl
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 1-[1-(4-Methylbenzyl)-1H-indol-6-yl]-1-deoxy-2,3,4,6-tetra-O-benzyl-β-D-glucopyranose | 0.12 g | CC1=CC=C(CN2C=CC3=CC=C(C=C23)[C@H]2[C@H](OCC3=CC=CC=C3)[C@@H](OCC3=CC=CC=C3)[C@H](OCC3=CC=CC=C3)[C@H](O2)COCC2=CC=CC=C2)C=C1 | C50H49NO5
